US06831106B1
a) 4-Methoxymethoxyphenylboronic acid
In a manner similar to that of Example 1(g), by reaction of 10 g (57.8 mmol) of 4-bromophenol with 2.55 g (63.6 mmol) of 60% sodium hydride and 4.83 mL (63.6 mmol) of methoxymethyl chloride, followed by 25.4 mL (63.6 mmol) of 2.5M butyllithium solution and 15 mL (65 mmol) of triisopropyl borate, a brown solid is obtained (m.p.=65° C., m=6.2 g; Y=7.3%).

reactant | 4-bromophenol | 57.8 mmol, 10 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium hydride | 63.6 mmol, 2.55 g | [H-].[Na+]
reactant | methoxymethyl chloride | 63.6 mmol, 4.83 mL | COCCl | C2H5ClO
reactant | butyllithium | 63.6 mmol, 2.5M, 25.4 mL | C(CCC)[Li]
reactant | triisopropyl borate | 65 mmol, 15 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
product | 4-Methoxymethoxyphenylboronic acid | COCOC1=CC=C(C=C1)B(O)O | C8H11BO4
